US04857530
1-[4-(2-Propynylamino)phenyl]ethanone
A mixture of 25 g (0.185 mol) of 4-aminoacetophenone, 12.7 ml (0.176 mol) of propargyl chloride, and 35 ml of diisopropylethylamine in 500 ml of dry toluene is stirred at 60° C. for eight hours then at 90° C. for twenty-four hours. The reaction is cooled to room temperature and poured into a saturated sodium bicarbonate solution. The organic portion is separated and concentrated in vacuo to an orange oil. The oil is chromatographed on silica gel eluting with a gradient of 20-50% ethyl acetate in hexane. The appropriate fractions are concentrated to leave a pale yellow solid. The solid is recrystallized from ethanol to give two crops of the desired product, 14.99 g (49% yield); mp 97°-100° C.

reactant | 4-aminoacetophenone | 0.185 mol, 25 g | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | propargyl chloride | 0.176 mol, 12.7 ml | C(C#C)Cl | C3H3Cl
reactant | diisopropylethylamine | 35 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(2-Propynylamino)phenyl]ethanone | 49% yield | C(C#C)NC1=CC=C(C=C1)C(C)=O | C11H11NO
